US08378104B2
Step A: 7-bromo-5-methyl-1,2,3-benzothiadiazole
To a solution of 7-bromo-5-iodo-1,2,3-benzothiadiazole (30 mg, 0.088 mmol), Pd(PPh3)4 (10.2 mg, 0.0088 mmol) and 1,4-dioxane (5 mL) was added dimethylzinc (2 M in toluene, 0.1 mL, 0.210 mmol), and the reaction was heated to 50° C. for 3 h. The solution was quenched with MeOH (1 mL), adsorbed onto silica gel, and purified by ISCO chromatography (1 to 3% EtOAc:heptane) to afford 12 mg (60%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 2.52 (s, 3 H), 7.58 (s, 1 H), 8.27 (s, 1 H).

reactant | 7-bromo-5-iodo-1,2,3-benzothiadiazole | 0.088 mmol, 30 mg | BrC1=CC(=CC=2N=NSC21)I | C6H2BrIN2S
reactant | dimethylzinc | 0.210 mmol, 2 M, 0.1 mL | C[Zn]C
catalyst | Pd(PPh3)4 | 0.0088 mmol, 10.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 7-bromo-5-methyl-1,2,3-benzothiadiazole | 12 mg, 60% | BrC1=CC(=CC=2N=NSC21)C | C7H5BrN2S
